US08222245B2
3-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid
Ethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate (Preparation 78) (0.092 g, 0.193 mmol) was dissolved in Ethanol (2 ml). Then 2N NaOH (1 ml, 2.000 mmol) was added and the reaction mixture left standing at RT for 2 hours. Ethanol was removed by evaporation and the resulting residue dissolved in EtOAc and water, acidified with acetic acid and the layers separated. Solid separated from the aqueous phase and was filtered off solid and dried under vacuum overnight at 50° C. to give the title compound (8 mg) as a white solid. δH (d6DMSO, 400 MHz): 1.37 (6H, d), 2.38 (2H, t), 2.67 (2H, m), 3.03 (2H, m), 3.89 (2H, s), 4.07 (2H, m), 4.97 (1H, m), 7.14 (1H, d), 7.54 (1H, d), 7.89 (1H, dd), 7.98 (1H, d), 8.39 (1H, dd), 8.51 (1H, d); MS (ES): C24H24N4O5 requires 448; found 449 [M+H]+.

reactant | Ethyl 3-[7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate | 0.193 mmol, 0.092 g | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)CCC(=O)OCC)C1 | C26H28N4O5
reactant | NaOH | 2.000 mmol, 2N, 1 ml | [OH-].[Na+]
solvent | Ethanol | 2 ml | C(C)O | C2H6O
product | 3-[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid | 8 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CN(CCO2)CCC(=O)O)C1 | C24H24N4O5
